US09109068B2
Determination of the Number of Reacted Anhhydroglucose Units Per 100 Anhydroglucose Units (AGU's)
Prior to the glucose determination, the maltodextrins and the various copolymers were hydrolysed following the following sulfuric acid procedure. About 500 mg sample was weighed in an acid digestion bomb equipped with 30 ml teflon insert (Parr Instruments) and diluted with 1 ml 70% H2SO4 followed by addition of approximately 3 ml of distilled (milliQ) water. The mixture was heated to 90° C. for about 5 hours. This hydrolysis was carried out in duplicate for all samples.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Anhydroglucose | C1[C@@H]2[C@H]([C@@H]([C@H]([C@H](O1)O2)O)O)O | C6H10O5
